US09255090B2
To a solution of 3-bromo-4-isopropoxy-benzoic acid isopropyl ester (5.32 g, 17.7 mmol, 1 eq.) in EtOH (100 mL), 1M aq. NaOH soln. (80 mL) was added. The resulting solution was heated at 80° C. for 18 hours, then concentrated in vacuo. The resulting aq. layer was carefully acidified with 2N aq. HCl soln. The mixture was extracted with DCM (3×100 mL). The comb. org. phases were dried over MgSO4 and concentrated in vacuo to give 3-bromo-4-isopropoxy-benzoic acid. The product was used without further purification.

reactant | 3-bromo-4-isopropoxy-benzoic acid isopropyl ester | 17.7 mmol, 5.32 g, 1 eq. | C(C)(C)OC(C1=CC(=C(C=C1)OC(C)C)Br)=O | C13H17BrO3
solvent | EtOH | 100 mL | CCO | C2H6O
solvent | NaOH | 1M | [OH-].[Na+]
product | 3-bromo-4-isopropoxy-benzoic acid | BrC=1C=C(C(=O)O)C=CC1OC(C)C | C10H11BrO3
